US07199120B2
To a cold (−78° C.) solution of N-cyclopropyl-4-{2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-3-yl}-2-pyrimidinamine (178 mg, 0.462 mmol) in tetrahydrofuran (15 mL) was added n-butyllithium (866 μL, 1.6 M in hexanes, 1.39 mmol) dropwise. The reaction mixture was stirred at −78° C. for 30 minutes, then carbon tetrachloride (179 μL, 1.85 mmol) was added dropwise. The resultant mixture was warmed to room temperature and stirred 2 hours. The reaction mixture was quenched with water and diluted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration provided crude 4-{7-chloro-2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-3-yl}-N-cyclopropyl-2-pyrimidinamine. This material was taken up in isopropylamine (3 mL, 35.2 mmol) and heated in a steel bomb at 120° C. for 16 hours. The reaction mixture was cooled and the excess isopropylamine was removed under a stream of nitrogen. Preparative HPLC provided 3-[2-(cyclopropylamino)-4-pyrimidinyl]-N-isopropyl-2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-7-amine (10 mg, 5%) as a yellow solid. 1H NMR (CDCl3) δ 8.10–8.07 (m, 2H), 7.87 (d, 1H), 7.35 (t, 1H), 6.85 (d, 1H), 6.69 (s, 1H), 6.51 (d, 1H), 6.06 (d, 1H), 5.94 (d, 1H), 5.68 (br, 1H), 4.16 (br, 1H), 3.93–3.79 (m, 2H), 2.85 (m, 1H), 1.40 (d, 6H), 1.25 (d, 6H), 0.87 (m, 2H), 0.64 (m, 2H); MS m/z 443 (M+1).

reactant | N-cyclopropyl-4-{2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-3-yl}-2-pyrimidinamine | 0.462 mmol, 178 mg | C1(CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=NC=C2)NC(C)C | C22H23N7
reactant | n-butyllithium | 1.39 mmol, 1.6 M, 866 μL | C(CCC)[Li]
reactant | carbon tetrachloride | 1.85 mmol, 179 μL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-{7-chloro-2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-3-yl}-N-cyclopropyl-2-pyrimidinamine | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CC2)C2=CC(=NC=C2)NC(C)C | C22H22ClN7
